US08791142B2
Step 4) cis-2-(3-chloro-5-(5-(2-(methoxymethyl)-2′-methylbiphenyl-4-yl)-1,2,4-oxadiazol-3-yl)pyridin-2-ylamino)cyclopentanecarboxylic acid
A solution of methyl cis-2-(3-chloro-5-(5-(2-(methoxymethyl)-2′-methylbiphenyl-4-yl)-1,2,4-oxadiazol-3-yl)pyridin-2-ylamino)cyclopentanecarboxylate (0.099 g; 0.19 mmol) in dioxan (2 mL) was added hydrochloric acid (1 mL). The mixture was heated at 60° C. for 24 hours. The solvent was evaporated and the residue purified by preparative HPLC to afford the title compound. 1H NMR (DMSO-d6, 400 MHz) δ 8.76 (1H, d, J=2.0 Hz), 8.33 (1H, s), 8.23-8.14 (2H, s), 7.45-7.26 (4H, m), 7.18 (1H, d, J=7.4 Hz), 6.86 (1H, s), 4.76-4.66 (1H, m), 4.28-4.16 (2H, m), 3.28 (3H, s), 3.11-3.02 (1H, m), 2.15-1.88 (6H, m), 1.88-1.78 (2H, m), 1.71-1.59 (1H, m). LC/MS: 519 (M+H)+. HPLC (Method F) Rt 9.03 min (Purity: 90.9%).

reactant | methyl cis-2-(3-chloro-5-(5-(2-(methoxymethyl)-2′-methylbiphenyl-4-yl)-1,2,4-oxadiazol-3-yl)pyridin-2-ylamino)cyclopentanecarboxylate | 0.19 mmol, 0.099 g | ClC=1C(=NC=C(C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)COC)N[C@@H]1[C@@H](CCC1)C(=O)OC | C29H29ClN4O4
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | dioxan | 2 mL | O1CCOCC1 | C4H8O2
product | cis-2-(3-chloro-5-(5-(2-(methoxymethyl)-2′-methylbiphenyl-4-yl)-1,2,4-oxadiazol-3-yl)pyridin-2-ylamino)cyclopentanecarboxylic acid | ClC=1C(=NC=C(C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)COC)N[C@@H]1[C@@H](CCC1)C(=O)O | C28H27ClN4O4
